US06548506B2
A suspension of 10.5 g of ethyl 7-fluoro-8-[4-(4-fluorophenyl)piperazin-1-yl]-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylate in 100 cm3 of acetic acid and 100 cm3 of 17.5% aqueous hydrochloric acid solution was heated, with stirring, at a temperature around 110° C. for approximately 4 hours. After cooling to approximately 20° C., 25 cm3 of water were added to the reaction mixture. The insoluble material was filtered off and washed 3 times with 200 cm3 of water and 2 times with 100 cm3 of ethanol. 9.3 g of 7-fluoro-8-[4-(4-fluorophenyl)piperazin-1-yl]-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid were obtained in the form of a yellow solid melting at approximately 320° C., which solid was used without additional purification in the subsequent stages.

reactant | ethyl 7-fluoro-8-[4-(4-fluorophenyl)piperazin-1-yl]-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylate | 10.5 g | FC1=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)OCC)C)C=C1N1CCN(CC1)C1=CC=C(C=C1)F | C26H24F2N4O3
reactant | water | 25 cm3 | O | H2O
solvent | acetic acid | 100 cm3 | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 100 cm3 | Cl | ClH
product | 7-fluoro-8-[4-(4-fluorophenyl)piperazin-1-yl]-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid | 9.3 g | FC1=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C)C=C1N1CCN(CC1)C1=CC=C(C=C1)F | C24H20F2N4O3
